US07799823B2
Preparation of (3R,S)-(+)-4-(1-sec-Butyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yloxy)-2-trifluoromethyl-benzonitrile
To a stirring solution comprised of a mixture of methanesulfonic acid 3-sec-butylcarbamoyl-3-(4-cyano-3-trifluoromethyl-phenoxy)-2,2-dimethyl-propyl ester diastereomers (1.89 g; 4.2 mmol) in tetrahydrofuran (10 mL) at ambient temperature under a nitrogen atmosphere is added a 60% sodium hydride mineral oil dispersion (0.34 g; 8.4 mmol) in portions. The reaction mixture is stirred overnight. The reaction mixture is carefully neutralized with saturated aqueous ammonium chloride and is extracted with ethyl acetate. The organic phase is washed with a brine solution and is dried over anhydrous magnesium sulfate. The organic solution is concentrated in vacuo to afford 1.47 g of a viscous residue comprised of two diastereomers; HPLC UV purity: 92% (two diastereomers.) The diastereomers are separated by flash silica column chromatography (Biotage Horizon chromatography system; 100 g of silica gel, Biotage 40+M silica cartridge.) Elution with a gradient (100% hexanes to 30% ethyl acetate over 3204 mL) will afford complete separation of the diastereomers: (3R,S)-(+)-4-(1-sec-Butyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yloxy)-2-trifluoromethyl-benzonitrile. 0.365 g;; [α]58924° C.=+238° (in dichloromethane);microanalysis for C18H21F3N2O2: % C(calc/found) 61.01/60.81, % H 5.97/6.06, % N 7.91/7.66, % F 16.08/16.25.

reactant | methanesulfonic acid 3-sec-butylcarbamoyl-3-(4-cyano-3-trifluoromethyl-phenoxy)-2,2-dimethyl-propyl ester | C(C)(CC)NC(=O)C(C(COS(=O)(=O)C)(C)C)OC1=CC(=C(C=C1)C#N)C(F)(F)F | C19H25F3N2O5S
reactant | sodium hydride | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (3R,S)-(+)-4-(1-sec-Butyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yloxy)-2-trifluoromethyl-benzonitrile | 1.47 g | [C@H](C)(CC)N1C([C@@H](C(C1)(C)C)OC1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C18H21F3N2O2
